US04129654
5-Methyl-7-phenyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione
A mixture of 2 g of 1-phenyl-3-methyl-6-hydroxyaminouracil, 100 ml of dimethylformamide and 10 ml of ethyl orthoformate is reacted in the same manner as Example 11 to obtain 0.93 g of the captioned compound. melting point: 219°-221° C.

reactant | 1-phenyl-3-methyl-6-hydroxyaminouracil | 2 g | C1(=CC=CC=C1)N1C(=O)N(C(=O)C=C1NO)C | C11H11N3O3
reactant | ethyl orthoformate | 10 ml | C(OCC)([O-])[O-]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 5-Methyl-7-phenyl-5H,7H-isoxazolo[3,4-d]pyrimidine-4,6-dione | 0.93 g | CN1C(N(C=2C(C1=O)=CON2)C2=CC=CC=C2)=O | C12H9N3O3
